US05478850
5-(4-[2-(5-Benzyl-2,4-thiazolidinedion-3-yl)ethoxy]benzyl)-2,4-thiazolidinedione
5-(4-[2-(5-Benzyl-2, 4-thiazolidinedion-3-yl ) -ethoxy]benzylidene)-2,4-thiazolidinedione (3.0 g) was dissolved in dioxan (400ml) and hydrogenated over 10% Palladium-charcoal (6 g) at 150 psi overnight. The reaction mixture was filtered through diatomaceous earth, the filter-cake washed with dioxan, and the combined dioxan solutions evaporated to afford the title compound as a gum. This material was used directly in salt formation.

reactant | 5-(4-[2-(5-Benzyl-2, 4-thiazolidinedion-3-yl ) -ethoxy]benzylidene)-2,4-thiazolidinedione | 3.0 g | C(C1=CC=CC=C1)C1C(N(C(S1)=O)CCOC1=CC=C(C=C2C(NC(S2)=O)=O)C=C1)=O | C22H18N2O5S2
solvent | dioxan | 400ml | O1CCOCC1 | C4H8O2
catalyst | Palladium-charcoal | 6 g | [Pd] | Pd
product | 5-(4-[2-(5-Benzyl-2,4-thiazolidinedion-3-yl)ethoxy]benzyl)-2,4-thiazolidinedione | C(C1=CC=CC=C1)C1C(N(C(S1)=O)CCOC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)=O | C22H20N2O5S2
